* ============================================================
* | LM293, LM393, LM2903, LM2903V, NCV2903
* | Comparator MACRO-MODEL
* | Designed in pSpice Version 9.2
* |
* | The content of this model is subject to change
* | without notice and may not be modified or altered
* | without permission from ON Semiconductor. This model
* | has been carefully checked and is believed to be
* | accurate, however ON Semiconductor does not assume
* | liability for the use of this model or the results
* | obtained from using it.
* ============================================================

* ============================================================
* Features: - Wide Single-Supply Range: 2.0 Vdc to 36 Vdc
* - Split-Supply Range: +/-1.0 Vdc to +/-18 Vdc
* - Very Low Current Drain Independent of
* Supply Voltage: 0.4 mA
* - Low Input Bias Current: 25 nA
* - Low Input Offset Current: 5.0 nA
* - Low Input Offset Voltage: 5.0 mV (max) LM293/393
* - Input Common Mode Range to Ground Level
* - Differential Input Voltage Range Equal to Power
* Supply Voltage
* ============================================================

* $Author: Vallabh Chilakapati $
* $Date: 11 Aug 2006 $

* NOTE: - Noise is not modeled.
* - Temperature is not modeled.
* - PSR is not modeled.
* - Model is for single device only. Simulated supply current is 1/2 of
* total package current.

* Connections:
* Non-Inverting Input
* | Inverting Input
* | | +ve Supply Voltage
* | | | -ve Supply Voltage
* | | | | Output
* | | | | |
.SUBCKT LM2903 1 2 11 12 24

***** Input Stage *****
Q_Q1 4 1 6 QPNP1
Q_Q2 7 2 9 QPNP2
I_I1 111 10 DC 0.6m
R_RC1 4 12 95.49
R_RC2 7 12 95.49
R_RE1 10 6 45.49
R_RE2 10 9 45.49

***** Gain Stage & Frequency Response Stage *****
E_Eref 14 0 poly(2) (12,0) (11,0) 0 0.09091 0.09091
R_Rgnd 11 0 100k
I_Ignd 0 11 0.24m
Vsup 111 11 0
G_Ignd 0 11 poly(1) (11,0) 0 0.00678m
G_G1 14 15 7 4 0.01047
R_Rc 14 15 26.3Meg
C_Cc 14 15 0.00667n

***** Output Stage *****
E_E1 22 14 15 14 1
V_F1 23 24 0
F_F1 11 0 V_F1 1
R_Rout 22 23 13

***** Output Voltage Limiting *****
D_D1 15 18 D10D1
D_D2 19 15 D10D1
V_Voh 111 18 0.62
V_Vol 19 12 0.62

***** Models *****
.model QPNP1 PNP(Is=1E-15 Bf=8293.8)
.model QPNP2 PNP(Is=1E-15 Bf=9663.8)
.MODEL D10D1 D IS=1E-15 RS=1.000E-3 VJ=.75 BV=100E6
.ENDS
